US07125900B2
3-Chloro-2-methyl-N-[4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared similar to EXAMPLE 6 according to METHOD A from 4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-ylamine (123 mg, 0.5 mmol) and 3-chloro-2-methylbenzenesulfonyl chloride (112.5 mg, 0.5 mmol). The solution was allowed to stand at r.t. overnight. Water (5 mL) was added and the resulted solution was made acidic with conc. HCl. The precipitate was filtered, washed with water and dried. Flash column chromatography of the precipitate on silica gel, eluted with a mixed solvents of ethyl ether and hexane (2:1) gave the title compound as a solid (165 mg, 76% yield). The product can be recrystallized from ethyl acetate and hexane: MS m/e: 439, 437, 435, 433.

reactant | 4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-ylamine | 0.5 mmol, 123 mg | CC=1N=C(SC1CC(Cl)(Cl)Cl)N | C6H7Cl3N2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.5 mmol, 112.5 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | HCl | Cl | ClH
solvent | Water | 5 mL | O | H2O
product | 3-Chloro-2-methyl-N-[4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-yl]benzenesulfonamide | 165 mg, 76% yield | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC(=C(N1)C)CC(Cl)(Cl)Cl)C | C13H12Cl4N2O2S2
